* E:\TinBus\sim\minimal.sxsch
*#SIMETRIX
V1 V1_P 0 12
V2 V2_P 0 5
V3 V3_P 0 PULSE 0 3.3 0 100n 100n 2u 100u
R1 Q5_E R1_N 10
R2 D2_N 0 1k
R3 D1_N 0 1k
L1 V1_P L1_N 1m  
R4 V3_P C4_N 1k
R5 L1_N R5_N 47k
R6 V2_P C2_N 100k
R7 R7_P R7_N 1k
R8 0 C5_N 1k
D1 L1_N D1_N D1N4148
D2 L1_N D2_N D1N4148
D3 L1_N D3_N D1N4148
D4 0 C2_N D1N4148
D5 C2_N V2_P D1N4148
D6 L1_N D6_N D1N4148
Q2 R7_N Q5_E R1_N 0 BC548B
Q3 Q3_C Q3_B 0 0 BD139
X$Q4 D6_N C5_N 0 2N7002 pinnames: D G S
Q5 R7_P R7_N Q5_E 0 BD139
X$Q6 D3_N C4_N 0 BS170 pinnames: D G S
C1 D1_N 0 10u  
C2 R5_N C2_N 1n  
C3 D2_N 0 10u  
C4 D3_N C4_N 10f  
C5 D6_N C5_N 100p  
.GRAPH L1_N curveLabel="L1-N" nowarn=true ylog=auto xlog=auto
.GRAPH V3_P curveLabel="Probe2-NODE" nowarn=true ylog=auto xlog=auto
.GRAPH C2_N curveLabel="D5-anode" nowarn=true ylog=auto xlog=auto
.TRAN 200u

